US07208524B2
Method 2) A solution of 110 g of [4-[2-[2-hydroxy-5-(N-hydroxycarbamimidoyl)benzenesulfonylamino]ethyl]-2′-methanesulfonylbiphenyl-3-yloxy]acetic acid in 1.00 L of 14% hydrogen chloride n-butanol solution was stirred at 100° C. for 2.5 hours. The reaction mixture was concentrated under reduced pressure, and the residue was washed with ethyl acetate to give 111 g of crude crystal. The crude crystal was recrystallized from n-butanol-diisopropyl ether to give 83.3 g of n-butyl[4-[2-[2-hydroxy-5-(N-hydroxycarbamimidoyl)benzenesulfonylamino]ethyl]-2′-methanesulfonylbiphenyl-3-yloxy]acetate hydrochloride.

reactant | [4-[2-[2-hydroxy-5-(N-hydroxycarbamimidoyl)benzenesulfonylamino]ethyl]-2′-methanesulfonylbiphenyl-3-yloxy]acetic acid | 110 g | OC1=C(C=C(C=C1)C(NO)=N)S(=O)(=O)NCCC1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)C)OCC(=O)O | C24H25N3O9S2
reactant | hydrogen chloride n-butanol | 1.00 L | C(CCC)O.Cl
product | n-butyl[4-[2-[2-hydroxy-5-(N-hydroxycarbamimidoyl)benzenesulfonylamino]ethyl]-2′-methanesulfonylbiphenyl-3-yloxy]acetate hydrochloride | 83.3 g | Cl.C(CCC)OC(COC=1C=C(C=CC1CCNS(=O)(=O)C1=C(C=CC(=C1)C(NO)=N)O)C1=C(C=CC=C1)S(=O)(=O)C)=O | InChI=1S/C28H33N3O9S2.ClH/c1-3-4-15-39-27(33)18-40-24-16-20(22-7-5-6-8-25(22)41(2,35)36)10-9-19(24)13-14-30-42(37,38)26-17-21(28(29)31-34)11-12-23(26)32;/h5-12,16-17,30,32,34H,3-4,13-15,18H2,1-2H3,(H2,29,31);1H
